US08034812B2
Production of 3-(2-methoxyethoxy)-1-methyl-1H-pyrazole-5-carboxylic acid
Using methyl 3-(2-methoxyethoxy)-1-methyl-1H-pyrazole-5-carboxylate (3.03 g, 14.1 mmol), methanol (15 mL) and 8N aqueous sodium hydroxide solution (3.00 mL), and in the same manner as in Reference Example 58, the title compound (2.72 g, yield 96%) was obtained.

reactant | methyl 3-(2-methoxyethoxy)-1-methyl-1H-pyrazole-5-carboxylate | 14.1 mmol, 3.03 g | COCCOC1=NN(C(=C1)C(=O)OC)C | C9H14N2O4
reactant | sodium hydroxide | 8N, 3.00 mL | [OH-].[Na+]
solvent | methanol | 15 mL | CO | CH4O
product | 3-(2-methoxyethoxy)-1-methyl-1H-pyrazole-5-carboxylic acid | 2.72 g, yield 96% | COCCOC1=NN(C(=C1)C(=O)O)C | C8H12N2O4
